US05519034
A mixture of 6,7-dimethoxy-1-[1-(4-biphenylyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride (3.5 g, prepared as described in Example RC20), methanol (50 ml), 37% aqueous formaldehyde solution (5 ml) and sodium cyanoborohydride (2.08 g) was stirred at ambient temperature for 24 hours. The solvents were removed in vacuo and the residue was partitioned between aqueous sodium hydroxide solution and ether. The ether extracts were dried over magnesium sulphate, the solution was filtered and the solvent removed in vacuo. The residue was dissolved in glacial acetic acid (30 ml). 48% Aqueous hydrobromic acid (30 ml) was added, and the mixture was heated under reflux under nitrogen for 6 hours. The solvents were removed in vacuo and the residue was recrystallised from methanol to give a solid which was partitioned between concentrated aqueous ammonia solution and ether. The ether extracts were washed with brine, dried and filtered. Dry hydrogen chloride was bubbled through the filtrate to yield 6,7-dihydroxy-2-methyl-1-[1-(4-biphenylyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.1 g), m.p. 131°-135° C. (dec).

reactant | 6,7-dimethoxy-1-[1-(4-biphenylyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.5 g | Cl.COC=1C=C2CCNC(C2=CC1OC)C1(CCC1)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | formaldehyde | 5 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 2.08 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 6,7-dihydroxy-2-methyl-1-[1-(4-biphenylyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.1 g | Cl.OC=1C=C2CCN(C(C2=CC1O)C1(CCC1)C1=CC=C(C=C1)C1=CC=CC=C1)C | InChI=1S/C26H27NO2.ClH/c1-27-15-12-20-16-23(28)24(29)17-22(20)25(27)26(13-5-14-26)21-10-8-19(9-11-21)18-6-3-2-4-7-18;/h2-4,6-11,16-17,25,28-29H,5,12-15H2,1H3;1H
